US08557983B2
4-methoxy-3-methyl-1H-indazole
A solution of 1-(2-fluoro-6-methoxyphenyl)ethanone (1 g), hydrazine (1.04 g), and sodium acetate (0.49 g) was stirred for 72 hours in toluene (10 mL). The mixture was concentrated, taken up in DMSO (8 mL), and heated to 135° C. for 24 hours. The mixture was cooled, poured into ethyl acetate (200 mL), and rinsed with 3× water, and brine. The organic layer was concentrated and chromatographed on silica gel using 10-100% ethyl acetate/hexanes.

reactant | 1-(2-fluoro-6-methoxyphenyl)ethanone | 1 g | FC1=C(C(=CC=C1)OC)C(C)=O | C9H9FO2
reactant | hydrazine | 1.04 g | NN | H4N2
reactant | sodium acetate | 0.49 g | C(C)(=O)[O-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-methoxy-3-methyl-1H-indazole | COC1=C2C(=NNC2=CC=C1)C | C9H10N2O
